US04319913
The 1-phenyl-2-trimethylsilyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide was dissolved in 50 ml. of methanol and heated at reflux for 4 hours. After stirring for 16 hours at 26° C., the resulting solution was concentrated in vacuo and the residue was crystallized from ethyl acetate to yield 1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (9.0 g, 33% yield) as a white solid having a melting point of 177°-180° C. and the following analysis:

reactant | 1-phenyl-2-trimethylsilyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C1(=CC=CC=C1)P1(N(CC2=C1C=CC=C2)[Si](C)(C)C)=O | C16H20NOPSi
solvent | methanol | CO | CH4O
product | 1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 9.0 g, 33% yield | C1(=CC=CC=C1)P1(NCC2=C1C=CC=C2)=O | C13H12NOP
